US08003649B2
A mixture of (R)-1-[1-(4-bromophenyl)ethyl]piperazine and 6-chloro-3-difluoromethyl-[1,2,4]-triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 269 to give 6-[4-[(1R)-1-(4-bromophenyl)ethyl]piperazin-1-yl]-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine in 75% yield.

reactant | (R)-1-[1-(4-bromophenyl)ethyl]piperazine | BrC1=CC=C(C=C1)[C@@H](C)N1CCNCC1 | C12H17BrN2
reactant | 6-chloro-3-difluoromethyl-[1,2,4]-triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)F | C6H3ClF2N4
product | 6-[4-[(1R)-1-(4-bromophenyl)ethyl]piperazin-1-yl]-3-(difluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 75% yield | BrC1=CC=C(C=C1)[C@@H](C)N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)F | C18H19BrF2N6
